US06552049B2
2-{[2-(Allyloxy)-4-(benzyloxy)phenoxy]methyl}oxirane
Sodium hydride (4.3 g, 0.11 mole of 60% mineral oil dispersion) was washed with hexane and suspended in 100 mL of N,N-dimethylformamide. To this suspension was added a solution of 25.4 g (0.10 mole) of 2-allyloxy-4-(benzyloxy)phenol in 100 mL of DMF. The mixture was stirred at room temperature for 30 minutes and then 22.8 g (0.10 mole) of (2R)-(−)-glycidyl tosylate was added. The mixture was heated at 60° C. under nitrogen for 2 hours and then at 35° C. for 15 hours. The solvent was removed in vacuum and replaced with 800 mL of methylene chloride. The resulting solution was washed with 200 mL of water and the water back-extracted with 200 mL of methylene chloride. The combined organic phases were washed with 400 mL of saturated brine, dried over sodium sulfate, filtered and concentrated in vacuum to a brown solid. Column chromatography on silica gel with methylene chloride as eluant gave 28.5 g of the (S)-enantiomer of the title compound as a white solid.

reactant | Sodium hydride | 0.11 mole, 4.3 g | [H-].[Na+]
reactant | 2-allyloxy-4-(benzyloxy)phenol | 0.10 mole, 25.4 g | C(C=C)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)O | C16H16O3
reactant | (2R)-(−)-glycidyl tosylate | 0.10 mole, 22.8 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]2CO2 | C10H12O4S
solvent | hexane | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-{[2-(Allyloxy)-4-(benzyloxy)phenoxy]methyl}oxirane | C(C=C)OC1=C(OCC2OC2)C=CC(=C1)OCC1=CC=CC=C1 | C19H20O4
